### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Sphere/Basic): diameters

### PR DESCRIPTION
**Pull request by jsm28**
Define `EuclideanGeometry.Sphere.IsDiameter`, the property of two
points being the endpoints of a diameter of a sphere, and
`EuclideanGeometry.Sphere.ofDiameter`, to construct the sphere on a
given diameter, and set up some basic API for these definitions.

This enables stating and proving geometrical results involving
diameters (as shown in the API setup here, there are several different
equivalent characterizations of a diameter, so justifying having a
common definition and API showing the different characterizations are
equivalent).  In particular, having the definition prepares the way
for stating and proving Thales's theorem, an easy entry on the
1000-plus list we're currently missing.

---

- [ ] depends on: #21617
- [ ] depends on: #21618

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JovanGerb** [comment]
What's the reason for including both `left_ne_right_iff_radius_ne_zero` and `left_ne_right_iff_radius_pos `? Conversely `IsDiameter.sbtw` just uses the `pos` variant.

And I think there should also be more a more general version: if a sphere contains any two distinct points, then the radius is positive.

**Comment by jsm28** [comment]
I've switched `IsDiameter.sbtw` to use the weaker version. This accords with the principle that hypotheses should be weaker and conclusions stronger in such cases (and since what's in an `iff` lemma is effectively both a hypothesis and a conclusion, that explains why there are both versions of the `iff`).

As for the suggested more general lemma, it's neither about diameters nor needed for development of the basic API for diameters included here, so is out of scope for this PR.

File: Mathlib/Geometry/Euclidean/Sphere/Basic.lean [hunk 1]
```diff
@@ -201,6 +209,120 @@ theorem concyclic_singleton (p : P) : Concyclic ({p} : Set P) :=
...
+lemma isDiameter_iff_right_mem_and_midpoint_eq_center :
+    s.IsDiameter p₁ p₂ ↔ p₂ ∈ s ∧ midpoint ℝ p₁ p₂ = s.center :=
+  ⟨fun h ↦ ⟨h.right_mem, h.2⟩, fun h ↦ IsDiameter.symm ⟨h.1, midpoint_comm (R := ℝ) p₁ p₂ ▸ h.2⟩⟩
+
+lemma IsDiameter.pointReflection_center_left (h : s.IsDiameter p₁ p₂) :
+    Equiv.pointReflection s.center p₁ = p₂ := by
+  rw [← h.midpoint_eq_center, Equiv.pointReflection_midpoint_left]
+
+lemma IsDiameter.affine_pointReflection_center_left (h : s.IsDiameter p₁ p₂) :
+    AffineEquiv.pointReflection ℝ s.center p₁ = p₂ := by
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/Basic.lean:244]: I think I'd argue that the simp-normal form of `AffineEquiv.pointReflection K X Y` should be `Equiv.pointReflection X Y`, and similarly for `.symm`. This is generally how we handled incremental bundling elsewhere - pick the weakest bundling (or a plain function) as the simp-normal form, and aggressively unbundle everything with `simp`.

File: Mathlib/Geometry/Euclidean/Sphere/Basic.lean [hunk 2]
```diff
@@ -201,6 +209,120 @@ theorem concyclic_singleton (p : P) : Concyclic ({p} : Set P) :=
...
+  rw [← h.midpoint_eq_center]
+  exact wbtw_midpoint _ _ _
+
+protected lemma IsDiameter.sbtw (h : s.IsDiameter p₁ p₂) (hr : s.radius ≠ 0) :
+    Sbtw ℝ p₁ s.center p₂ := by
+  rw [← h.midpoint_eq_center]
+  exact sbtw_midpoint_of_ne _ (h.left_ne_right_iff_radius_ne_zero.2 hr)
+
+/-- Construct the sphere with the given diameter. -/
+def ofDiameter (p₁ p₂ : P) : Sphere P :=
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Sphere/Basic.lean:310]:
```suggestion
protected def ofDiameter (p₁ p₂ : P) : Sphere P :=
```
since you can always use `.ofDiameter` as the constructor anyway.

File: Mathlib/Geometry/Euclidean/Sphere/Basic.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Sphere/Basic.lean]: I've made that change to simp-normal form (including removing `simp` markings from lemmas `simp` can now prove) and removed the copies of lemmas about diameters that used `AffineEquiv.pointReflection`.

File: Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean [hunk 3]
```diff
@@ -465,6 +465,10 @@ open Function
 def pointReflection (x : P₁) : P₁ ≃ᵃ[k] P₁ :=
   (constVSub k x).trans (vaddConst k x)
 
+@[simp] lemma pointReflection_apply_eq_equiv_pointReflection_apply (x y : P₁) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/AffineSpace/AffineEquiv.lean:468]:
```suggestion
@[simp] lemma pointReflection_apply_eq_equivPointReflection_apply (x y : P₁) :
```
Is the naming convention.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
